US08791119B2
To 1.35 g (3.10 mmol) of tert-butyl 6-cyano-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in an autoclave are added 10 ml of 30% aqueous ammonia. The mixture is stirred for 1 hour at 50° C. and, after cooling, is poured into 60 ml of water, to give 1.05 g of tert-butyl 8-carbamoyl-6-cyano-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate after drying over potassium hydroxide.

reactant | tert-butyl 6-cyano-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 3.10 mmol, 1.35 g | C(#N)C1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)N2C=NC=C2)C2=CC(=CC=C2)F | C23H22FN5O3
reactant | ammonia | 10 ml | N | H3N
solvent | water | 60 ml | O | H2O
product | tert-butyl 8-carbamoyl-6-cyano-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 1.05 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)C#N)C2=CC(=CC=C2)F | C20H21FN4O3
